US07579488B2
Preparation of 5-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-2-carboxylic acid
5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carboxylic acid (0.22 g, 0.504 mmol) is reduced with NaBH4 (57 mg, 1.51 mmol) analogous to Example 3 to give the title product (210 mg, 95%).

reactant | 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carboxylic acid | 0.504 mmol, 0.22 g | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(C=C(O2)C(=O)O)C1)C)=O)(C)C | C27H32O5
reactant | NaBH4 | 1.51 mmol, 57 mg | [BH4-].[Na+]
product | 5-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-2-carboxylic acid | 210 mg, 95% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C27H34O5
